datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCP(CCC)(CCC)=[O:10].C[C@@H]1CCC[C@H](C)[N+:21]1(CC(C)(C)O)[H:20]>>CCCP(CCC)(CCC)=[O+:10][H:20].C[C@@H]1CCC[C@H](C)[N:21]1CC(C)(C)O 10=20;20,21=21",
"CCCCCCc1c(-c2ccccc2)n[nH]c1[O:21][H:20].Cc1ccc(C(=O)[O-:10])o1>>CCCCCCc1c(-c2ccccc2)n[nH]c1[O-:21].Cc1ccc(C(=O)[O:10][H:20])o1 10=20;20,21=21",
"CCc1[nH]c2ccccc2[n+:21]1[H:20].C[C@@H]1CC[C@@H]2CC[C@H](C)[N:10]21>>CCc1[nH]c2ccccc2[n:21]1.C[C@@H]1CC[C@@H]2CC[C@H](C)[N+:10]21[H:20] 10=20;20,21=21",
"CCOC(=O)CC[NH2+:21][H:20].CCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:10]>>CCOC(=O)CC[NH2:21].CCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:10][H:20] 10=20;20,21=21",
"C[N+:21](C)(Cc1ccc(O)c(O)c1O)[H:20].C[N:10](C)CCC/N=C(\c1ccccc1)c1ccccc1O>>C[N+:10](C)(CCC/N=C(\c1ccccc1)c1ccccc1O)[H:20].C[N:21](C)Cc1ccc(O)c(O)c1O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Cc1cc(CN)c(O)c(C[NH2:10])c1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Cc1cc(CN)c(O)c(C[NH2+:10][H:20])c1 10=20;20,21=21",
"NC(=O)CCc1cc[n+:21]([H:20])cc1.O=C(c1ccc(-c2nnn[nH]2)cc1)[O-:10]>>NC(=O)CCc1cc[n:21]cc1.O=C(c1ccc(-c2nnn[nH]2)cc1)[O:10][H:20] 10=20;20,21=21",
"CC[N+:21](C)(c1ccccc1)[H:20].[NH3+]CCC[NH:10]CCC[NH3+]>>CC[N:21](C)c1ccccc1.[NH3+]CCC[NH+:10](CCC[NH3+])[H:20] 10=20;20,21=21",
"Cc1ccc([NH2:10])cc1Br.Nc1cc[n+:21]([H:20])c(-c2cccc(Cl)n2)c1>>Cc1ccc([NH2+:10][H:20])cc1Br.Nc1cc[n:21]c(-c2cccc(Cl)n2)c1 10=20;20,21=21",
"Cc1ccc([S-:10])cc1.O=[N+]([O-])c1ccc([S:21][H:20])cc1>>Cc1ccc([S:10][H:20])cc1.O=[N+]([O-])c1ccc([S-:21])cc1 10=20;20,21=21",
"COC(=O)[C@H]1[C@H]2CC[C@@H](C[C@H]1OC(=O)c1ccccc1)[N+:21]2(C)[H:20].Oc1cccc2c1Cc1cc([NH2:10])ccc1-2>>COC(=O)[C@H]1[C@H]2CC[C@@H](C[C@H]1OC(=O)c1ccccc1)[N:21]2C.Oc1cccc2c1Cc1cc([NH2+:10][H:20])ccc1-2 10=20;20,21=21",
"CCc1cc(C(=O)[O-])[n+:21]([H:20])cc1CC.c1ccc(/N=N/c2ccc([NH2:10])cc2)cc1>>CCc1cc(C(=O)[O-])[n:21]cc1CC.c1ccc(/N=N/c2ccc([NH2+:10][H:20])cc2)cc1 10=20;20,21=21",
"Cc1ccc(C)c(N[N+:21](=C(C#N)C#N)[H:20])c1.O=C(c1ccccc1/N=C/C=C/c1ccccc1)[O-:10]>>Cc1ccc(C)c(N[N:21]=C(C#N)C#N)c1.O=C(c1ccccc1/N=C/C=C/c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CCN[N:10](C)CC.COCC1=C(C(=O)[O:21][H:20])C2C=CC1C2>>CCN[N+:10](C)(CC)[H:20].COCC1=C(C(=O)[O-:21])C2C=CC1C2 10=20;20,21=21",
"C[N+:21]1([H:20])CCC=C(C(=O)[O-])C1.Cn1c[n:10]cc1CC(NC(=O)CC[NH3+])C(=O)[O-]>>C[N:21]1CCC=C(C(=O)[O-])C1.Cn1c[n+:10]([H:20])cc1CC(NC(=O)CC[NH3+])C(=O)[O-] 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])C=C1.Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)C=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"CC(=Nc1ccccc1O)c1ccccc1[O-:10].CC[N+:21](CC)(CC1CO1)[H:20]>>CC(=Nc1ccccc1O)c1ccccc1[O:10][H:20].CC[N:21](CC)CC1CO1 10=20;20,21=21",
"CN1C(=O)N(CC[N+:21]2([H:20])CCOCC2)C(=O)C(C)(C2=CCCCC2)C1=O.c1nc(C[S-:10])c[nH]1>>CN1C(=O)N(CC[N:21]2CCOCC2)C(=O)C(C)(C2=CCCCC2)C1=O.c1nc(C[S:10][H:20])c[nH]1 10=20;20,21=21",
"CCCCCCCCCCCCCCC[NH2:10].Nc1c[n+:21]([H:20])cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O>>CCCCCCCCCCCCCCC[NH2+:10][H:20].Nc1c[n:21]cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NC(=NO)C(Cc1ccccc1)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NC(=NO)C(Cc1ccccc1)[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)c1ccc(CC(=O)[O:21][H:20])s1.CO[N-:10]C1=CC(=O)N(C)C(=O)N1C>>CC(=O)c1ccc(CC(=O)[O-:21])s1.CO[N:10](C1=CC(=O)N(C)C(=O)N1C)[H:20] 10=20;20,21=21",
"CC(=O)/C(C[NH+]1CCCCC1)=N\[O-:10].O=S(=O)([O-])CC[N+:21]1([H:20])CCOCC1>>CC(=O)/C(C[NH+]1CCCCC1)=N\[O:10][H:20].O=S(=O)([O-])CC[N:21]1CCOCC1 10=20;20,21=21",
"Brc1cccc([O-:10])c1.O=[N+]([O-])c1cc([N+](=O)[O-])c2nnn([O:21][H:20])c2c1>>Brc1cccc([O:10][H:20])c1.O=[N+]([O-])c1cc([N+](=O)[O-])c2nnn([O-:21])c2c1 10=20;20,21=21",
"CC(=O)c1ccc[n:10]c1.OCc1cccc[n+:21]1[H:20]>>CC(=O)c1ccc[n+:10]([H:20])c1.OCc1cccc[n:21]1 10=20;20,21=21",
"CC(C)N(Cc1ccccc1[O:21][H:20])C(C)C.CCCC[N:10](CCCC)c1ccccc1>>CC(C)N(Cc1ccccc1[O-:21])C(C)C.CCCC[N+:10](CCCC)(c1ccccc1)[H:20] 10=20;20,21=21",
"CCC(C)(C)[N+:21](C)(C(C)C)[H:20].O=C([O-])c1cccc([N+](=O)[O-])c1[O-:10]>>CCC(C)(C)[N:21](C)C(C)C.O=C([O-])c1cccc([N+](=O)[O-])c1[O:10][H:20] 10=20;20,21=21",
"C=CCc1ccc([O-:10])c(OC)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=CCc1ccc([O:10][H:20])c(OC)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[N:21](S(=O)(=O)c1ccc(C)cc1)[H:20].O=C(c1ccsc1)[O-:10]>>CC(=O)[N-:21]S(=O)(=O)c1ccc(C)cc1.O=C(c1ccsc1)[O:10][H:20] 10=20;20,21=21",
"CC(C)C1NC(=S)[N-:10]C1=O.O=S(Cc1ccccc1)[O:21][H:20]>>CC(C)C1NC(=S)[N:10]([H:20])C1=O.O=S(Cc1ccccc1)[O-:21] 10=20;20,21=21",
"CC1(C)CC(NCCO)CC(C)(C)[NH:10]1.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC1(C)CC(NCCO)CC(C)(C)[NH+:10]1[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C[NH2+]CC[NH+:21](C)[H:20].Cc1cc(C)[n:10]c(N)c1>>C[NH2+]CC[NH:21]C.Cc1cc(C)[n+:10]([H:20])c(N)c1 10=20;20,21=21",
"CCO[Si](C)(C[NH2+:21][H:20])OCC.CC[NH+](CC)CCNc1nc(N)cc(C)[n:10]1>>CCO[Si](C)(C[NH2:21])OCC.CC[NH+](CC)CCNc1nc(N)cc(C)[n+:10]1[H:20] 10=20;20,21=21",
